US07858640B2
2-(4-chlorobenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide
The title compound was prepared by the method of Preparation 34b using 3-amino-4-fluorophenol and 2-(4-chlorobenzyl)-3-oxothiobutyric acid S-tert-butyl ester.

reactant | 3-amino-4-fluorophenol | NC=1C=C(C=CC1F)O | C6H6FNO
reactant | 2-(4-chlorobenzyl)-3-oxothiobutyric acid S-tert-butyl ester | C(C)(C)(C)SC(C(C(C)=O)CC1=CC=C(C=C1)Cl)=O | C15H19ClO2S
product | 2-(4-chlorobenzyl)-N-(2-fluoro-5-hydroxyphenyl)-3-oxobutyramide | ClC1=CC=C(CC(C(=O)NC2=C(C=CC(=C2)O)F)C(C)=O)C=C1 | C17H15ClFNO3
